US07074817B2
3-Chlorophenylboronic acid (1.21 g, 7.76 mmol) was added in four poritions to the mixture of 1-benzyl-6-bromo-1H-indole (1.12 g, 3.91 mmol), palladium(II) acetate (0.0191 g, 0,0850 mmol), and tetrabutylammonium bromide (1.26 g, 3.91 mmol) in water (22.5 mL) and THF (2.5 mL) while heating at 70° C. for 4 hours. The reaction mixture was allowed to cool to room temperature and 2N hydrochloric acid was slowly added. The mixture was extracted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography (Biotage apparatus) using 0-100% ethyl acetate in hexane as an eluant. Drying at 60° C. for 40 minutes yielded (0.621 g, 50%) of 1-benzyl-6-(3-chlorophenyl)-1H-indole as a yellow gum. Mass spectrum (+ESI, [M+H]+) m/z 318; 1HNMR (500 MHz, DMSO-d6): δ 7.85 (s, 1H), 7.75 (t, 1H, J=1.8 Hz), 7.6-7.65 (m, 2H), 7.55 (d, 1H, J=3.1 Hz), 7.45 (t, 1H, J=7.8 Hz), 7.25-7.35 (m, 4H), 7.2-7.25 (m, 3H), 6.5 (d, 1H, J=3.1 Hz), and 5.5 ppm (s, 2H).

reactant | 3-Chlorophenylboronic acid | 7.76 mmol, 1.21 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 1-benzyl-6-bromo-1H-indole | 3.91 mmol, 1.12 g | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)Br | C15H12BrN
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | tetrabutylammonium bromide | 3.91 mmol, 1.26 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 22.5 mL | O | H2O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 0,0850 mmol, 0.0191 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-benzyl-6-(3-chlorophenyl)-1H-indole | 0.621 g, 50% | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)C1=CC(=CC=C1)Cl | C21H16ClN
